US05424414
8-(N-Cbz-amino)-1,3-octanediol (4,25 g, 85 mmoles ) was dissolved in anhydrous pyridine (200 mL),evaporated in vacuo and redissolved in anhydrous pyridine (200 mL). Diisopropylethylamine (38.1 mL, 88 mmoles) and 4-dimethylaminopyridine (170 mg) were added. The mixture was stirred under nitrogen and cooled in an ice bath while adding 4,4-dimethoxytrityl chloride (30 g, 88 mmoles) in tetrahydrofuran (200 mL) dropwise over 1.5 hours. Stirring was continued for 15 minutes after the addition was complete. The mixture was evaporated in vacuo and purified by column chromatography on silica gel, eluting with 20:80:1 ethyl acetate:cyclohexane:triethylamine, then 50:50:1 ethyl acetate:cyclohexane:triethylamine and finally, 100:1 ethyl acetate:triethylamine. Evaporation of the appropriate fractions gave 8-(N-Cbz-amino)-3-hydroxy-1-(4,4'-dimethoxytrityloxy)octane (44 g) as a crisp foam. Mass Spectrum: (M+K)+ @m/z 636. 8-(N-Cbz-amino)-3-hydroxy-1-(4,4'-dimethoxytrityloxy)octane (28.4 g, 47.6 mmoles) was dissolved in methanol (200 mL) and hydrogenated over 10% palladium on carbon (2.84 g) @45 psi hydrogen for 2.5 hours. After filtration and evaporation in vacuo there remained 8-(N-Cbz-amino)-1,3-octanediol (21.5 g). Mass Spectrum: (M+K)+ @m/z 502.

reactant | 8-(N-Cbz-amino)-1,3-octanediol | 85 mmoles, 4,25 g | C(=O)(OCC1=CC=CC=C1)NCCCCCC(CCO)O | C16H25NO4
reactant | Diisopropylethylamine | 88 mmoles, 38.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4,4-dimethoxytrityl chloride | 88 mmoles, 30 g | COC1(CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)Cl)C=C1)OC | C21H21ClO2
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 170 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 8-(N-Cbz-amino)-3-hydroxy-1-(4,4'-dimethoxytrityloxy)octane | 44 g | C(=O)(OCC1=CC=CC=C1)NCCCCCC(CCOC(C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=CC=C1)O | C37H43NO6
